US04404205
5.6 g. of 7-amino-3,4,5,6-tetrahydro-2H-azepine and 7.5 g. of ethyl 2-ethyl-acetoacetate are boiled in 50 ml. ethanol for 3 hours. The ethanol is then evaporated at reduced pressure. The residual oil is dissolved in 20 ml. of 10% hydrochloric acid and shaken out twice with 10 ml. ethyl acetate. The aqueous layer is neutralized with sodium hydrogen carbonate and shaken out with 3×10 ml. chloroform. The combined chloroform layer is dried over calcinated sodium sulphate and evaporated. The residual colorless oil is fractionated at reduced pressure. 6.3 g. (61%) 3-ethyl-2-methyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine are obtained. Boiling point: 156°-160° C./2 mmHg.

reactant | 7-amino-3,4,5,6-tetrahydro-2H-azepine | NC=1CCCCCN1 | C6H12N2
reactant | ethyl 2-ethyl-acetoacetate | C(C)C(C(=O)OCC)C(=O)C | C8H14O3
solvent | ethanol | C(C)O | C2H6O
product | 3-ethyl-2-methyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine | 61% | C(C)C1=C(N=C2N(CCCCC2)C1=O)C | C12H18N2O
